US07674807B2
3-Methyl-4-nitrobenzyl chloride (8.57 g), 4-iodo-3-pentafluoroethyl-1H-pyrazole (16.00 g) and potassium carbonate (7.66 g) were stirred in DMF (70 ml) at 70° C. for 1 hour. After cooling, the reaction solution was poured into water and extracted with ethyl acetate. The organic phase was washed with water and saturated aqueous solution of sodium chloride. After drying the organic layer with sodium sulfate, the solvent was distilled off under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 4-iodo-1-(3-methyl-4-nitrobenzyl)-3-pentafluoroethyl-1H-pyrazole (4.60 g).

reactant | 3-Methyl-4-nitrobenzyl chloride | 8.57 g | CC=1C=C(CCl)C=CC1[N+](=O)[O-] | C8H8ClNO2
reactant | 4-iodo-3-pentafluoroethyl-1H-pyrazole | 16.00 g | IC=1C(=NNC1)C(C(F)(F)F)(F)F | C5H2F5IN2
reactant | potassium carbonate | 7.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 4-iodo-1-(3-methyl-4-nitrobenzyl)-3-pentafluoroethyl-1H-pyrazole | 4.60 g | IC=1C(=NN(C1)CC1=CC(=C(C=C1)[N+](=O)[O-])C)C(C(F)(F)F)(F)F | C13H9F5IN3O2
